Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
neck pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with h/o HLD, HTN, TBI and dementia presents 
to the ED
from ___ s/p fall. The patient was drinking on roof of
house watching the fireworks. She went to walk down a spiral
staircase, fell backwards about ___ feet onto the deck
below. Denies LOC, +head strike. No ACs. OSH imaging
concerning for C5-C7 process fx, T3 compression fx, R
periorbital hematoma. Denies any pain. VSS. Patient
initially hypoxic to 88%, put on 2L with improvement to 95%.
She denies any chest pain, dyspnea, headache, N/V/D, vision
changes, or any other sx at this time.

 
Past Medical History:
 HTN, dementia 
 
Social History:
___
Family History:
non-contirbutory
 
Physical Exam:
PHYSICAL EXAMINATION
 
Temp: 97.0 HR: 70 BP: 123/77 Resp: 18 O(2)Sat: 98 Normal
 
HEENT: R supraorbital hematoma with ecchymosis around the R
eye. Midface stable, nontender.
Airway intact, trachea midline
Chest: B/l breath sounds. No chest wall tenderness or
crepitus.
Abdominal: Soft, Nontender, Nondistended
GU/Flank: Pelvis stable, nontender
Extr/Back: Extremities atraumatic without bony deformities.
Neuro: GCS=15
 

 
Pertinent Results:
___ 03:05AM BLOOD WBC-13.1* RBC-3.89* Hgb-12.5 Hct-38.7 
MCV-100* MCH-32.1* MCHC-32.3 RDW-12.8 RDWSD-46.5* Plt ___
___ 03:05AM BLOOD ___ PTT-24.4* ___
___ 03:05AM BLOOD Glucose-112* UreaN-13 Creat-0.7 Na-138 
K-4.8 Cl-99 HCO3-27 AnGap-12
___ 03:05AM BLOOD ALT-36 AST-55* AlkPhos-55 TotBili-0.4
___ 03:05AM BLOOD Albumin-4.5

___:  CXR/pelvis:

1. No evidence of pneumonia pneumothorax or edema. 
2. Old healed bilateral rib fractures. 
3. No acute pelvic fracture or dislocation.

___:  cervical spine/thoracic spine:

 1.  Multiple fractures involving the spinous processes C5 
through T1, as well as T3, T9 and T11 vertebral bodies, better 
evaluated on recent CT scans.  Although this study is limited by 
motion, the adjacent ligaments appear intact. 
2.  Thoracic cord signal abnormality is central in location and 
likely 
represents a syrinx. 
3.  Multilevel degenerative changes as described above. 

___:  CT T spine:

  
1. Acute, mildly distracted C7 and T1 spinous process fractures. 

2. Acute, mildly displaced compression fracture involving the 
superior 
endplate of T3 with prevertebral soft tissue edema. 
3. Acute mild compression fracture of the T9 vertebral body 
without 
retropulsion. 
4. Acute compression fracture of the inferior endplate of T11. 
5. Acute fractures of the right fourth and fifth ribs. 
6. Minimally displaced fracture to the left transverse process 
of L1 of 
unclear chronicity. 
7. Trace left pneumothorax. 
8. Bilateral lower lobe atelectasis with underlying pulmonary 
contusion and pleural effusion difficult to exclude on the 
provided images. 
9. Millimetric pulmonary nodules in bilateral lung apices.  See 
recommendations below. 

___:  CXR:

No comparison.  Status post right shoulder replacement.  Clips 
project over the left breast.  Asymmetry of the ribcage caused 
by asymmetrical arm 
positioning.  Healing left-sided rib fractures.  No evidence of 
pneumothorax.  
No other lung parenchymal abnormality.  No pneumonia, no 
pulmonary edema.  
Normal size of the cardiac silhouette with mild elongation of 
the descending aorta. 
  

  

  

 
Brief Hospital Course:
___ year old female who presented to the hospital after a fall 
from a roof while the patient was reportedly walking down a 
spiral staircase.  She fell backward about ___ feet onto the 
deck. There was no reported LOC, but the patient did sustain a 
head strike.  The patient was taken to an OSH where imaging was 
concerning for a C5-C7 transverse process fracture, T3 
compression fracture, T9 compression fracture, T11 end-plate 
compression fracture,  right ___ hematoma, trace left 
pneumothorax, and right sided ___ rib fractures.  The patient 
was initially hypoxic to 88% and was placed on 2L NC with 
improvement to 95%.  Because of the patient's multiple spinal 
injuries, she was transferred here for management.

Upon admission, the Neurosurgery service was consulted.  An MRI 
of the cervical and thoracic spine was recommended which showed 
multiple fractures involving the spinous processes C5 through 
T1, as well as T3, T9 and T11 vertebral bodies. No ligamentous 
injury was identified. The spinal fractures were determined to 
be non-surgical and a hard collar was recommended. 

The patient's spine and rib pain were controlled with oral 
analgesia.  The patient was evaluated by Occupational therapy 
and cleared for discharge home with 24 hour supervision.  At the 
time of discharge, the patient was tolerating a regular diet.  
She was ambulating and voiding without difficulty.  She was 
discharged under the care of her husband and  instructed to call 
and schedule an appointment with Dr. ___ she can be seen 
in 2 weeks. At that visit you will need to have imaging of your 
neck and spine.   You were also advised to follow-up with your 
primary care provider.

OF NOTE:++++++++++++++++++++++++++++

Millimetric pulmonary nodules were found in bilateral lung 
apices. 

For incidentally detected multiple solid pulmonary nodules 
smaller than 6mm, 
no CT follow-up is recommended in a low-risk patient, and an 
optional CT 
follow-up in 12 months is recommended in a high-risk patient. 
  

 
Medications on Admission:
Wellbutrin 300mg daily, Fluoxetine 40mg daily, atenolol 25mg  
 daily, Simvastatin 20mg daily, Aricept 5mg daily, Aspirin 81mg  

 daily, Thiamine 100mg daily, Iron 50mg tablet daily, Folic acid 
 
 1mg daily, multivitamin  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  OxyCODONE (Immediate Release) 2.5 mg PO Q6H:PRN Pain - 
Moderate 
may cause dizziness 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*8 Tablet Refills:*0 
5.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*7 Tablet Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Atenolol 25 mg PO DAILY  
8.  BuPROPion XL (Once Daily) 300 mg PO DAILY  
9.  Donepezil 5 mg PO QHS  
10.  FLUoxetine 40 mg PO DAILY  
11.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fall:

C7 and T1 spinous process fracture  
 T3 superior endplate fracture 
 T9 compression fracture 
 T11 inferior endplate compression fracture  
 L1 transverse process fracture  
 Trace left PTX  
 Right ___ rib fracture  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after a fall resulting in 
fractures in the neck, mid and lower back, and rib fractures.  
You were placed in a collar for stabilization of your neck.  You 
were evaluated by Neurosurgery and follow-up was recommended.  
You are being discharged with the following instructions:

   Your injury cause right sided ___ th rib fractures which can 
cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.

* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.

* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.

* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.

* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.

* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.

* Do NOT smoke
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

You also sustained a bump to your head resulting in a head 
bleed.  Please watch for:

+increased headache
+visual changes
+drooping face
+difficulty speaking
+weakness of extremities
+slurred speech

If these occur, please go to the emergency room.  You may 
contact the acute care clinic by calling ___ with any 
questions or concerns.

additional instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 

 
Followup Instructions:
___